US04382942
9.8 g of sodium carbonate and 2.6 ml of ethyl iodide were added to a suspension of 7 g of 3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine hydrochloride and 70 ml of dimethylformamide and the mixture was stirred for 16 hours and was diluted with water. The mixture was extracted with ethyl acetate and the organic extract was washed with water, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with an 8-1-1 cyclohexane-chloroform-triethylamine mixture to obtain 5.3 g of 3-(3-methoxyphenyl)-1-ethyl-1,2,5,6-tetrahydropyridine.

reactant | sodium carbonate | 9.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl iodide | 2.6 ml | C(C)I | C2H5I
reactant | 3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine hydrochloride | 7 g | Cl.COC=1C=C(C=CC1)C=1CNCCC1
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(3-methoxyphenyl)-1-ethyl-1,2,5,6-tetrahydropyridine | 5.3 g | COC=1C=C(C=CC1)C=1CN(CCC1)CC | C14H19NO
